US09024032B2
5-(Benzyloxy)-4-oxo-4H-pyran-2-carboxylic acid (36.9 g, 150 mmol) and 3-aminobiphenyl (25.35 g, 150 mmol) were combined in diphenyl ether (110 ml). The mixture was heated to 250° C. (pre-heated block) in an open flask. After 10 min, the mixture was cooled to room temperature. The residue was purified by silica gel chromatography to provide 3-(benzyloxy)-1-(biphenyl-3-yl)pyridin-4(1H)-one. 1H NMR δ (400 MHz, d6-DMSO): 7.55 (d, J=7.6 Hz, 1H), 7.46 (m, 4H), 7.44-7.31 (m, 5H), 7.29-7.11 (m, 4H), 6.51 (d, J=7.2 Hz, 1H), 5.17 (s, 2H).MS (M+H)+ 354.

reactant | 5-(Benzyloxy)-4-oxo-4H-pyran-2-carboxylic acid | 150 mmol, 36.9 g | C(C1=CC=CC=C1)OC=1C(C=C(OC1)C(=O)O)=O | C13H10O5
reactant | 3-aminobiphenyl | 150 mmol, 25.35 g | NC=1C=C(C=CC1)C1=CC=CC=C1 | C12H11N
solvent | diphenyl ether | 110 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-(benzyloxy)-1-(biphenyl-3-yl)pyridin-4(1H)-one | C(C1=CC=CC=C1)OC1=CN(C=CC1=O)C=1C=C(C=CC1)C1=CC=CC=C1 | C24H19NO2
